US07960552B2
To a solution of [3-{[(2,6-dichlorophenyl)thio]methyl}-5-(1-methylethyl)-4-isoxazolyl]methanol (22 mg, 0.066 mmol), ethyl 6-(4-hydroxyphenyl)-2-quinolinecarboxylate (19 mg, 0.066 mmol) and triphenylphosphine (35 mg, 0.13 mmol) in dichloromethane (1 mL) was added di-tert-butyl azodicarboxylate (30 mg, 0.13 mmol). The solution was stirred at ambient temperature approximately 4.5 hours and then was adsorbed onto silica gel. Purification was done by chromatography (silica gel, 0-75% ethyl acetate in hexanes gradient elution) to afford ethyl 6-[4-({[3-{[(2,6-dichlorophenyl)thio]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (26 mg, 65%). 1H-NMR (400 MHz, CDCl3) δ 8.36-8.31 (m, 2H), 8.20 (d, J=9 Hz, 1H), 8.03-8.00 (m, 2H), 7.69 (d, J=9 Hz, 2H), 7.32-7.13 (m, 3H), 7.08 (d, J=9 Hz, 2H), 5.08 (s, 2H), 4.56 (q, J=7 Hz, 2H), 4.16 (s, 2H), 3.20 (septet, J=7 Hz, 1H), 1.49 (t, J=7 Hz, 3H), 1.31 (d, J=7 Hz, 6H). LRMS (APCI) m/z 607 (M+H)+.

reactant | [3-{[(2,6-dichlorophenyl)thio]methyl}-5-(1-methylethyl)-4-isoxazolyl]methanol | 0.066 mmol, 22 mg | ClC1=C(C(=CC=C1)Cl)SCC1=NOC(=C1CO)C(C)C | C14H15Cl2NO2S
reactant | ethyl 6-(4-hydroxyphenyl)-2-quinolinecarboxylate | 0.066 mmol, 19 mg | OC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OCC | C18H15NO3
reactant | triphenylphosphine | 0.13 mmol, 35 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 0.13 mmol, 30 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | ethyl 6-[4-({[3-{[(2,6-dichlorophenyl)thio]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 26 mg, 65% | ClC1=C(C(=CC=C1)Cl)SCC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OCC)C(C)C | C32H28Cl2N2O4S
